US09145354B2
3-{(S)-1-[4-Chloro-2-fluoro-3-(pyridine-3-carbonyl)-phenyl]-propylcarbamoyl}-2,5-dihydro-pyrrole-1-carboxylic acid tert-butyl ester (0.125 g, 0.26 mmol) treated with saturated HCl/EtOAc stirred at ambient for 1 hour, solid filtered off then purified by Prep HPLC to give N-[(1S)-1-{4-chloro-2-fluoro-3-[(pyridin-3-yl)carbonyl]phenyl}propyl]-2,5-dihydro-1H-pyrrole-3-carboxamide (0.062 g), MS: [M+H] 388

reactant | 3-{(S)-1-[4-Chloro-2-fluoro-3-(pyridine-3-carbonyl)-phenyl]-propylcarbamoyl}-2,5-dihydro-pyrrole-1-carboxylic acid tert-butyl ester | 0.26 mmol, 0.125 g | C(C)(C)(C)OC(=O)N1CC(=CC1)C(N[C@@H](CC)C1=C(C(=C(C=C1)Cl)C(=O)C=1C=NC=CC1)F)=O | C25H27ClFN3O4
reactant | HCl EtOAc | Cl.CCOC(=O)C
product | N-[(1S)-1-{4-chloro-2-fluoro-3-[(pyridin-3-yl)carbonyl]phenyl}propyl]-2,5-dihydro-1H-pyrrole-3-carboxamide | 0.062 g | ClC1=C(C(=C(C=C1)[C@H](CC)NC(=O)C=1CNCC1)F)C(=O)C=1C=NC=CC1 | C20H19ClFN3O2
